US08486970B2
A solution of 343 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-(2-hydrazino-2-oxoethoxy)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 6.9 ml of THF was cooled to 0° C., and 116 mg of 1,1′-carbonyldiimidazole and 0.12 ml of triethylamine were added thereto, followed by stirring at 0° C. for 2 hours, and then stirring at room temperature overnight. 0.1 M hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The solution was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to obtain 221 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white powder crystal.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-(2-hydrazino-2-oxoethoxy)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 343 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC(=O)NN)=O)C1C(CCCC1)NS(=O)(=O)C | C25H29Cl2N5O6S
reactant | 1,1′-carbonyldiimidazole | 116 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | THF | 6.9 ml | C1CCOC1 | C4H8O
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 221 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC=1OC(NN1)=O)=O)C1C(CCCC1)NS(=O)(=O)C | C26H27Cl2N5O7S
